US07601850B2
A. (5-{1-[4-(tert-Butyl-dimethyl-silanyloxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophen-2-yl)-methanol
To a 0° C. solution of 5-{1-[4-(tert-butyl-dimethyl-silanyloxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophene-2-carboxylic acid methyl ester (10.0 g, 22.39 mmol) in THF (200 ml) is added portionwise lithium aluminum hydride (1.70 g, 44.78 mmol) and the reaction mixture is warmed to RT for 1 h. The reaction is quenched with water (1.7 ml), 5N NaOH (1.7 ml), and water (5.1 ml). The reaction mixture is filtered, concentrated and chromatographed (120 g SiO2, 10% EtOAc/Hex) to yield the title compound (7.0 g, 75%).

reactant | 5-{1-[4-(tert-butyl-dimethyl-silanyloxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophene-2-carboxylic acid methyl ester | 22.39 mmol, 10.0 g | COC(=O)C=1SC(=CC1C)C(CC)(CC)C1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)C | C25H38O3SSi
reactant | lithium aluminum hydride | 44.78 mmol, 1.70 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | (5-{1-[4-(tert-Butyl-dimethyl-silanyloxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-thiophen-2-yl)-methanol | 7.0 g, 75% | C(C)(C)(C)[Si](OC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(S1)CO)C)C)(C)C | C24H38O2SSi
